US07642373B2
(a) Preparation of methyl 11-(4-iodophenoxy)undecanoate (10)
Methyl 11-bromoundecanoate (10 g, 35.8 mmmol), in acetone (150 ml) was treated with 4-iodophenol (7.88 g, 35.8 mmol) and potassium carbonate (9.88 g 71.6 mmol). The stirred reaction was heated at reflux for 48 h. The reaction was then allowed to cool and the reaction concentrated in vacuo to a gum. The reaction was then partitioned between ethyl acetate (150 ml) and water (150 ml). The ethyl acetate layer was separated dried, over sodium sulfate and concentrated in vacuo to solid. The solid was dissolved in diethyl ether (100 ml) and petroleum ether 60-80 C (100 ml) added. The solution was concentrated in vacuum to a volume of 100 ml. The solution was set aside and allowed to crystallise. The product was collected by filtration and dried in vacuum to give 12.22 g of solid. The mother liquors were concentrated to ˜20 ml and allowed to crystallise. A further 0.81 g of solid was collected by filtration. The two solids were combined to give the desired product (13.03 g, 86%) δH (CDCl3) 1.29-1.78 (16H, m, 3,4,5,6,7,8,9,10-CH2), 2.30 (2H, t, 2-CH2), 3.86 (3H, s, CO2CH3), 3.90 (2H, t, 11-CH2), 6.66 (2H, dd, 2,6-ArH), 7.53 (2H, dd, 3,5-ArH), δC(CDCl3) 24.90, 25.93, 29.09, 29.18, 29.30, 29.42, 34.07, 51.42, 68.06, 82.35, 116.90, 138.11, 158.98, and 174.33.

reactant | Methyl 11-bromoundecanoate | 10 g | BrCCCCCCCCCCC(=O)OC | C12H23BrO2
reactant | 4-iodophenol | 35.8 mmol, 7.88 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | potassium carbonate | 71.6 mmol, 9.88 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | methyl 11-(4-iodophenoxy)undecanoate | 12.22 g | IC1=CC=C(OCCCCCCCCCCC(=O)OC)C=C1 | C18H27IO3
